US08405069B2
f. {2-[2-(2-Methoxyethoxy)ethoxy]ethyl}phosphonic acid
{2-[2-(2-Methoxyethoxy)ethoxy]ethyl}phosphonic acid diethyl ester (1.00 g, 3.5 mmol) was dissolved in CH2Cl2 (20 ml) under N2. Bromotrimethylsilane (2.3 ml, 17.5 mmol) was added via syringe and the mixture was stirred for 2 hours. Volatiles were removed in vacuo to give a thick orange oil; this was dissolved in MeOH (100 ml) with fuming to give a give a yellow solution. The mixture was stirred for 2 hours and evaporated to dryness to give a thick yellow oil which was dissolved in CH2Cl2 and extracted with NaOH (3×50 ml, aq., 1M). HCl (conc.) was added to the yellow aqueous layer until the solution was acidic to pH paper. Removal of water in vacuo gave a yellow crystalline solid that was extracted with EtOH and filtered. Cooling the filtrate to −35° C. resulted in precipitation of further white solid which was removed by filtration. Removal of volatiles from the yellow supernatant under vacuum (0.01 torr) afforded the desired product as a thick yellow oil. Yield 0.60 g, 2.6 mmol, 74%. 1H NMR (d6-DMSO, 400 MHz, 298 K): δ 3.55 (ap. q. J=7 Hz, 2H), 3.48 (m, 6H), 3.41 (m, 2H), 3.23 (s, 3H), 1.83 (d of t, JH-P=19 Hz, JH-H=7 Hz, 2H). 13C{1H} NMR (d6-DMSO, 100 MHz, 298 K): δ 71.25, 69.69, 69.58, 69.27, 65.41, 58.05, 28.99 (d, JC-P=132 Hz). 31P{1H} NMR (d6-DMSO, 162 MHz, 298 K): δ 23.15. MS (ESI, m/z): 227 (44−, 100%), 229 ([M+H]+, 10%). Exact mass found (calculated for [M+H]+, m/z): 229.08490 (229.08410).

reactant | {2-[2-(2-Methoxyethoxy)ethoxy]ethyl}phosphonic acid diethyl ester | 3.5 mmol, 1.00 g | C(C)OP(OCC)(=O)CCOCCOCCOC | C11H25O6P
reactant | Bromotrimethylsilane | 17.5 mmol, 2.3 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 ml | CO | CH4O
product | {2-[2-(2-Methoxyethoxy)ethoxy]ethyl}phosphonic acid | COCCOCCOCCP(O)(O)=O | C7H17O6P
